2132-08-17 07:23:00 Physician Resident Progress Note
Chief Complaint: Mr. [**Known lastname 7056**] is a 68 year old gentleman with DM 2,
   seizure disorder, dCHF, HTN, and neuropathy discharged yesterday after
   completing an 11 day course of vancomycin for a LLL MRSA pneumonia
   admitted for hypotension.
   24 Hour Events:
   d/c triple lumen - pressures normotensive since coming to MICU, off
   pressors
 MULTI LUMEN - START [**2132-8-16**] 01:30 PM
 BLOOD CULTURED - At [**2132-8-16**] 04:31 PM
 URINE CULTURE - At [**2132-8-16**] 04:31 PM
 BLOOD CULTURED - At [**2132-8-16**] 04:32 PM
 MULTI LUMEN - STOP [**2132-8-17**] 05:33 AM
   Allergies:
   Sulfonamides
   Unknown;
   Penicillins
   Unknown;
   Tetracyclines
   Unknown;
   Erythromycin Base
   Unknown;
   Ciprofloxacin
   Hives; IV Cipro
   Last dose of Antibiotics:
   Vancomycin - [**2132-8-16**] 03:30 PM
   Meropenem - [**2132-8-17**] 04:08 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2132-8-17**] 04:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-8-17**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 58 (57 - 77) bpm
   BP: 151/72(81) {104/49(63) - 175/95(101)} mmHg
   RR: 16 (11 - 21) insp/min
   SpO2: 94%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 64 Inch
    CVP: 6 (6 - 8)mmHg
   Total In:
                                                                  4,287 mL
                                                                    114 mL
   PO:
   TF:
   IVF:
                                                                  1,487 mL
                                                                    114 mL
   Blood products:
   Total out:
                                                                  1,060 mL
                                                                  1,460 mL
   Urine:
                                                                  1,060 mL
                                                                  1,460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,227 mL
                                                                 -1,346 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///23/
   Physical Examination
   Interactive, agitated, alert and oriented
   CTAB without wheezes, rubs or gallops
   Regular rate and rhythm, no rubs, gallops or murmurs
   Soft, nontender, nondistended abdomen, pos bowel sounds
   Warm ext, no edema
   Labs / Radiology
   234 K/uL
   9.5 g/dL
   111 mg/dL
   1.3 mg/dL
   23 mEq/L
   4.7 mEq/L
   13 mg/dL
   111 mEq/L
   143 mEq/L
   30.8 %
   5.7 K/uL
        [image002.jpg]
                             [**2132-8-16**]  04:00 PM
                             [**2132-8-16**]  10:13 PM
                             [**2132-8-17**]  03:24 AM
   WBC
   5.7
   Hct
   30.8
   Plt
   234
   Cr
   2.0
   1.3
   TropT
   <0.01
   Glucose
   190
   111
   Other labs: CK / CKMB / Troponin-T:161/5/<0.01, ALT / AST:24/16, Alk
   Phos / T Bili:46/0.5, Albumin:3.6 g/dL, Ca++:8.5 mg/dL, Mg++:2.2 mg/dL,
   PO4:3.6 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 7056**] is a 68 year old gentleman with DM 2, seizure disorder, dCHF,
   HTN, and neuropathy discharged yesterday after completing an 11 day
   course of vancomycin for a LLL MRSA pneumonia admitted for hypotension.
   .
   # Hypotension: Unclear etiology at this time. The patient recently
   completed an 11 day course of vancomycin for possible MRSA pneumonia at
   LLL that radiographically resolved prior to discharge.  He has been
   afebrile wtihout a leukocytosis, although he does report increased
   cough without sputum production.  The patient also has a history of
   diabetic neuropathy as well as orthostasis, and his intermitent
   hypotension without a clear source may suggest autonomic instability.
   Finally, the patient was unclear as to his metoprolol dosing, and may
   have taken excessive anti-hypertensives. The hypotension resolved upon
   coming to the floor. In the ED the pt received IVF and pressors.
   - Levophed was weaned after 35 minutes on the floor. Restart to goal
   MAP > 60, UOP >30cc if needed
   - Hold antihypertensives
   - Follow up UA, culture and blood
   - Continue meropenem and vancomycin until culture results
   - Check TSH, B12, folate, SPEP/UPEP
   - induce sputum cultures
   - case worker
 to determine if pt can get linezolid covered
   .
   # SOB: Most likeley etiology at this time is inadequately treated left
   lower lobe consolidation.
   - Vancomycin and meropenem. Will likely be able to discontinue
   meropenem after cultures are negative.
   - Check sputum as above.
   .
   # ARF: Unclear etiology at this time given that creatinine was 1.1
   yesterday. The patient present with Cr from 3.2 to 1.3. Positive rare
   Eos. Less likely AIN.
   - Trend BUN/Cr
   - Avoid nephrotoxins
   .
   # Lactic acidosis: Trending down after IVF, likely secondary to
   intravascular volume depletion and poor forward flow.
   - Trend lactate
   .
   # Dizziness: Unclear etiology at this time, although patient has
   baseline multifactorial ataxia per neurology notes.  Symptoms currently
   resolved. Low suspicion for CVA at this time.
   - Repeat neuro exam when hypotension resolved.
   .
   # CV: Patient with diastolic CHF with LVEF 55-60% on [**2132-8-3**].  Of note,
   the patient has baseline chronic chest pain.
   - Hold beta blockade due to hypotension
   - Resume once pressures tolerate
   - Monitor fluid status closely
   .
   # Acetaminophen: Elevated acetaminophen level in setting of prescribed
   percocet use.  Patient states that he takes no more percocet than
   prescribed.
   - Trend LFTs, hold off on NAC for now.
   .
   # Seizure: Unlikely to be aura, seisure or post-ictal state given
   history.
   - Continue keppra
 adjust for renal function
   .
   # DM 2:
   - ISS and accuchecks
   .
   # GERD: Continue PPI
   Social work consult
   ICU Care
   Nutrition:
   Comments: diabetic/cardiac diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2132-8-16**] 01:30 PM
   16 Gauge - [**2132-8-16**] 01:30 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:Transfer to floor

2132-08-17 09:58:00 Physician Attending Progress Note
Chief Complaint: hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MULTI LUMEN - START [**2132-8-16**] 01:30 PM
 BLOOD CULTURED - At [**2132-8-16**] 04:31 PM
 URINE CULTURE - At [**2132-8-16**] 04:31 PM
 BLOOD CULTURED - At [**2132-8-16**] 04:32 PM
 MULTI LUMEN - STOP [**2132-8-17**] 05:33 AM
   Off pressors
   Cr down
   Lactate down
   Allergies:
   Sulfonamides
   Unknown;
   Penicillins
   Unknown;
   Tetracyclines
   Unknown;
   Erythromycin Base
   Unknown;
   Ciprofloxacin
   Hives; IV Cipro
   Last dose of Antibiotics:
   Vancomycin - [**2132-8-16**] 03:30 PM
   Meropenem - [**2132-8-17**] 04:08 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2132-8-17**] 04:08 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-8-17**] 09:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98
   HR: 63 (54 - 77) bpm
   BP: 135/81(93) {104/49(63) - 175/95(101)} mmHg
   RR: 14 (11 - 21) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
   CVP: 6 (6 - 8)mmHg
   Total In:
                                                                  4,287 mL
                                                                    514 mL
   PO:
                                                                    400 mL
   TF:
   IVF:
                                                                  1,487 mL
                                                                    114 mL
   Blood products:
   Total out:
                                                                  1,060 mL
                                                                  1,985 mL
   Urine:
                                                                  1,060 mL
                                                                  1,985 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,227 mL
                                                                 -1,471 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///23/
   Physical Examination
   Gen: alert conversant NAD
   HEENT: o/p clear
   CV: RR
   Chest: diminished BS left base, right sided crackles
   Abd: soft NT
   Ext: trace edema
   Neuro: alert conversant, C2-12 grossly intact,
   Labs / Radiology
   9.5 g/dL
   234 K/uL
   111 mg/dL
   1.3 mg/dL
   23 mEq/L
   4.7 mEq/L
   13 mg/dL
   111 mEq/L
   143 mEq/L
   30.8 %
   5.7 K/uL
        [image002.jpg]
                             [**2132-8-16**]  04:00 PM
                             [**2132-8-16**]  10:13 PM
                             [**2132-8-17**]  03:24 AM
   WBC
   5.7
   Hct
   30.8
   Plt
   234
   Cr
   2.0
   1.3
   TropT
   <0.01
   Glucose
   190
   111
   Other labs: CK / CKMB / Troponin-T:161/5/<0.01, ALT / AST:24/16, Alk
   Phos / T Bili:46/0.5, Albumin:3.6 g/dL, Ca++:8.5 mg/dL, Mg++:2.2 mg/dL,
   PO4:3.6 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 HYPOVOLEMIA (VOLUME DEPLETION - WITHOUT SHOCK)
 CHRONIC PAIN
   Hypotension: resolved, again interesting scenario with transient but
   profound hypotension that resolves with ++IVF and transient pressors.
   In terms of sepsis- fluids and restart ABX could be an explanation but
   we are also interested in investigating adrenals and autonomic
   instability
   MRSA PNA: restart Vanco and [**Last Name (un) **]- repeat sputum cx. Needs outpt Pulm
   follow up and if CXR fails to clear may need bronch to exclude
   endobronchial lesion.
   SZ: bump up Keppra now that Creatinine
   Chronic Pain: change to q4 percoset
 need to speak with Dr [**Last Name (STitle) 6815**]
   about long term narcotics as we found multiple bags of [**Last Name (un) 10029**] in his
   belongings.
   ARF: resolved with IVF and stable Cr
   Remaining issues as per Housestaff
   ICU Care
   Nutrition: po diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2132-8-16**] 01:30 PM
   16 Gauge - [**2132-8-16**] 01:30 PM
   Prophylaxis:
   DVT:  sc hep
   Stress ulcer: PPI
   Communication:  with pt
   [**Name (NI) 66**] status: Full code
   Disposition :Transfer to floor

2132-08-18 07:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   No further hypotension, Cr returned to [**Location 848**]. Etiology ? Cortisol 1.5.
   Cortsintropin test, response 23. Adrenal insufficiency -?
   immunosuppression, HIV test.
    Vanc dc'd given that hx since [**2130**] LLL changes, unlikely PNA.
   Allergies:
   Sulfonamides
   Unknown;
   Penicillins
   Unknown;
   Tetracyclines
   Unknown;
   Erythromycin Base
   Unknown;
   Ciprofloxacin
   Hives; IV Cipro
   Last dose of Antibiotics:
   Vancomycin - [**2132-8-16**] 03:30 PM
   Meropenem - [**2132-8-17**] 11:56 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2132-8-18**] 04:42 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Dyspnea
   Musculoskeletal: Joint pain, back pain
   Flowsheet Data as of  [**2132-8-18**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98
   HR: 52 (51 - 82) bpm
   BP: 160/74(96) {109/51(65) - 165/118(129)} mmHg
   RR: 17 (10 - 21) insp/min
   SpO2: 92%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 64 Inch
                  Total In:
                                                                  1,414 mL
                  PO:
                                                                  1,200 mL
                  TF:
   IVF:
                                                                    214 mL
   Blood products:
   Total out:
                                                                  3,685 mL
                                                                    920 mL
   Urine:
                                                                  3,685 mL
                                                                    920 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,271 mL
                                                                   -920 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 92%
   ABG: ///26/
   Physical Examination
   General Appearance: Anxious
   Cardiovascular: Lying in bed, mildly agitated, but cooperative.
   Pulmonary exam limited by minimal inspiratory effort.  Mild crackles at
   R base.
   RRR, no audible murmurs.
   abdomen soft, NT, NABS
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   243 K/uL
   10.5 g/dL
   128 mg/dL
   1.1 mg/dL
   26 mEq/L
   4.4 mEq/L
   11 mg/dL
   107 mEq/L
   139 mEq/L
   32.7 %
   6.1 K/uL
        [image002.jpg]
                             [**2132-8-16**]  04:00 PM
                             [**2132-8-16**]  10:13 PM
                             [**2132-8-17**]  03:24 AM
                             [**2132-8-18**]  04:19 AM
   WBC
   5.7
   6.1
   Hct
   30.8
   32.7
   Plt
   234
   243
   Cr
   2.0
   1.3
   1.1
   TropT
   <0.01
   Glucose
   190
   111
   128
   Other labs: CK / CKMB / Troponin-T:161/5/<0.01, ALT / AST:24/16, Alk
   Phos / T Bili:46/0.5, Albumin:3.6 g/dL, Ca++:8.9 mg/dL, Mg++:2.1 mg/dL,
   PO4:2.4 mg/dL
   Assessment and Plan
 INEFFECTIVE COPING
 ADRENAL INSUFFICIENCY (AI, ADDISON, ADDISON'S)
 HYPOTENSION (NOT SHOCK)
 HYPOVOLEMIA (VOLUME DEPLETION - WITHOUT SHOCK)
 CHRONIC PAIN
   Mr. [**Known lastname 7056**] is a 68 year old gentleman with DM 2, seizure disorder, dCHF,
   HTN, and neuropathy discharged yesterday after completing an 11 day
   course of vancomycin for a LLL MRSA pneumonia admitted for hypotension.
   .
   # Hypotension: Unclear etiology at this time. The patient recently
   completed an 11 day course of vancomycin for possible MRSA pneumonia at
   LLL that radiographically resolved prior to discharge.  He has been
   afebrile wtihout a leukocytosis, although he does report increased
   cough without sputum production.  The patient also has a history of
   diabetic neuropathy as well as orthostasis, and his intermitent
   hypotension without a clear source may suggest autonomic instability.
   Finally, the patient was unclear as to his metoprolol dosing, and may
   have taken excessive anti-hypertensives. The hypotension resolved upon
   coming to the floor. In the ED the pt received IVF and pressors.
   - Levophed was weaned after 35 minutes on the floor. Restart to goal
   MAP > 60, UOP >30cc if needed
   - Hold antihypertensives
   - Follow up UA, culture and blood
   - Continue meropenem and vancomycin until culture results
   - Check TSH, B12, folate, SPEP/UPEP
   - induce sputum cultures
   - case worker
 to determine if pt can get linezolid covered
   .
   # SOB: Most likeley etiology at this time is inadequately treated left
   lower lobe consolidation.
   - Vancomycin and meropenem. Will likely be able to discontinue
   meropenem after cultures are negative.
   - Check sputum as above.
   .
   # ARF: Unclear etiology at this time given that creatinine was 1.1
   yesterday. The patient present with Cr from 3.2 to 1.3. Positive rare
   Eos. Less likely AIN.
   - Trend BUN/Cr - now improving.
   - Avoid nephrotoxins
   .
   # Lactic acidosis: Trending down after IVF, likely secondary to
   intravascular volume depletion and poor forward flow.
   - Trend lactate
   .
   # Dizziness: Unclear etiology at this time, although patient has
   baseline multifactorial ataxia per neurology notes.  Symptoms currently
   resolved. Low suspicion for CVA at this time.
   .
   # CV: Patient with diastolic CHF with LVEF 55-60% on [**2132-8-3**].  Of note,
   the patient has baseline chronic chest pain.
   - Had been holding beta blockade due to hypotension
   - Resume once pressures tolerate
   - Monitor fluid status closely
   .
   # Acetaminophen: Elevated acetaminophen level in setting of prescribed
   percocet use.  Patient states that he takes no more percocet than
   prescribed.
   - Trend LFTs, hold off on NAC for now.
   .
   # Seizure: Unlikely to be aura, seisure or post-ictal state given
   history.
   - Continue keppra
 adjust for renal function
   .
   # DM 2:
   - ISS and accuchecks
   .
   # GERD: Continue PPI
   Social work consult
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   16 Gauge - [**2132-8-16**] 01:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2132-08-18 10:34:00 Physician Attending Progress Note
Chief Complaint: hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 CALLED OUT
   Low O2 sats noted overnight while sleeping and ? of apneas
   Allergies:
   Sulfonamides
   Unknown;
   Penicillins
   Unknown;
   Tetracyclines
   Unknown;
   Erythromycin Base
   Unknown;
   Ciprofloxacin
   Hives; IV Cipro
   Last dose of Antibiotics:
   Vancomycin - [**2132-8-16**] 03:30 PM
   Meropenem - [**2132-8-17**] 11:56 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2132-8-18**] 04:42 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Dyspnea
   Flowsheet Data as of  [**2132-8-18**] 10:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98
   HR: 52 (51 - 71) bpm
   BP: 160/74(96) {109/51(65) - 165/118(129)} mmHg
   RR: 17 (10 - 21) insp/min
   SpO2: 92%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 64 Inch
                  Total In:
                                                                  1,414 mL
                  PO:
                                                                  1,200 mL
                  TF:
   IVF:
                                                                    214 mL
   Blood products:
   Total out:
                                                                  3,685 mL
                                                                  1,320 mL
   Urine:
                                                                  3,685 mL
                                                                  1,320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,271 mL
                                                                 -1,320 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 92%
   ABG: ///26/
   Physical Examination
   Gen: alert conversant NAD
   HEENT: o/p clear
   CV: RR
   Chest: diminished BS left base, right sided crackles
   Abd: soft NT
   Ext: trace edema
   Neuro: alert conversant, C2-12 grossly intact,
   Labs / Radiology
   10.5 g/dL
   243 K/uL
   128 mg/dL
   1.1 mg/dL
   26 mEq/L
   4.4 mEq/L
   11 mg/dL
   107 mEq/L
   139 mEq/L
   32.7 %
   6.1 K/uL
        [image002.jpg]
                             [**2132-8-16**]  04:00 PM
                             [**2132-8-16**]  10:13 PM
                             [**2132-8-17**]  03:24 AM
                             [**2132-8-18**]  04:19 AM
   WBC
   5.7
   6.1
   Hct
   30.8
   32.7
   Plt
   234
   243
   Cr
   2.0
   1.3
   1.1
   TropT
   <0.01
   Glucose
   190
   111
   128
   Other labs: CK / CKMB / Troponin-T:161/5/<0.01, ALT / AST:24/16, Alk
   Phos / T Bili:46/0.5, Albumin:3.6 g/dL, Ca++:8.9 mg/dL, Mg++:2.1 mg/dL,
   PO4:2.4 mg/dL
   Assessment and Plan
 INEFFECTIVE COPING
 ADRENAL INSUFFICIENCY (AI, ADDISON, ADDISON'S)
 HYPOTENSION (NOT SHOCK)
 HYPOVOLEMIA (VOLUME DEPLETION - WITHOUT SHOCK)
 CHRONIC PAIN
   Hypotension: resolved, again interesting scenario with transient but
   profound hypotension that resolves with ++IVF and transient pressors.
   In terms of sepsis- fluids and restart ABX could be an explanation for
   turn around  but we are also interested in investigating adrenals and
   autonomic instability. Random cortisol 1.5 but did stim to 23. will add
   cortisol onto admit labs
   MRSA PNA: ID consulted and felt we can hold on ABX and watch, repeat
   sputum cx, repeat CT to look at LLL. If fails to clear may need bronch
   at some point to exclude endobronchial lesion, foreign body.
   SZ: Keppra
   Chronic Pain: change to q4 percoset
 need to speak with Dr [**Last Name (STitle) 6815**]
   about long term narcotics as we found multiple bags of [**Last Name (un) 10029**] in his
   belongings.
   ARF: resolved with IVF and stable Cr
   Remaining issues as per Housestaff
   ICU Care
   Nutrition: reg diet
   Glycemic Control:
   Lines:
   16 Gauge - [**2132-8-16**] 01:30 PM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer:
   Communication:  with pt
   [**Name (NI) 66**] status: Full code
   Disposition :Transfer to floor